US07838499B2
Preparation of 3-cyclopropylprop-2-ynyl 4-methylbenzenesulfonate (Intermediate AU)
To a stirred solution of crude 3-cyclopropylprop-2-yn-1-ol (intermediate AT) (0.55 mg) in 10 mL of CH2Cl2 was added TsCl (1.33 g, 6.87 mmol) and DMAP (0.035 g, 0.2865 mmol) at 0° C. Triethylamine (0.96 mL, 6.87 mmol) was added dropwise to the mixture and the reaction temperature was held so as not to exceed 0° C. After stirring for 3 h, the mixture was quenched with 10 mL of water. The aqueous layer was extracted twice with 20 mL each of CH2Cl2. The organic layer was washed with 20% HCl and water prior to drying over anhydrous Na2SO4. The organic phase was concentrated and the crude product was purified by gel column chromatography to obtain intermediate AU (0.4 g).

reactant | 3-cyclopropylprop-2-yn-1-ol | 0.55 mg | C1(CC1)C#CCO | C6H8O
reactant | TsCl | 6.87 mmol, 1.33 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Triethylamine | 6.87 mmol, 0.96 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2865 mmol, 0.035 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-cyclopropylprop-2-ynyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC#CC1CC1 | C13H14O3S
